US06770667B1
To a suspension of 3-pyridin-3-yl)aniline (0.17 g) and pyridine (0.24 ml) in dichloromethane (3 ml) was dropwise added a solution of the fluorene-1-carbonyl chloride (0.23 g) in dichloromethane (2 ml) followed by stirring for 2 hours. The mixture was diluted with dichloromethane and washed with an aqueous solution of sodium hydrogen carbonate and brine. The separated organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by a silica gel column chromatography eluting with 2% methanol in dichloromethane to give N-(3-(pyridin-3-yl)phenyl)-9H-fluorene-1-carboxamide (0.317 g, 87.6%).

reactant | aniline | 0.17 g | NC1=CC=CC=C1 | C6H7N
reactant | pyridine | 0.24 ml | N1=CC=CC=C1 | C5H5N
reactant | fluorene-1-carbonyl chloride | 0.23 g | C1(=CC=CC=2C3=CC=CC=C3CC12)C(=O)Cl | C14H9ClO
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(3-(pyridin-3-yl)phenyl)-9H-fluorene-1-carboxamide | 0.317 g, 87.6% | N1=CC(=CC=C1)C=1C=C(C=CC1)NC(=O)C1=CC=CC=2C3=CC=CC=C3CC12 | C25H18N2O
